US07405305B2
b) 2-(Imidazo[1,2-a]pyridin-3-yl)acetamide
Bubble ammonia through a solution of (Imidazo[1,2-a]pyridin-3-yl)acetic acid ethyl ester (10.0 g, 48.96 mmol) in methanol (30 ml) at 0° C. Heat the reaction mixture in a sealed tube at 100° C. for 2 hours. Concentrate the reaction mixture under reduced pressure. Tituration in ethyl acetate to gives the title compound (5.0 g, 58.2%), as a white solid. ESMS (M++1): 176.1 m/z.

reactant | ammonia | N | H3N
reactant | (Imidazo[1,2-a]pyridin-3-yl)acetic acid ethyl ester | 48.96 mmol, 10.0 g | C(C)OC(CC1=CN=C2N1C=CC=C2)=O | C11H12N2O2
solvent | methanol | 30 ml | CO | CH4O
product | 2-(Imidazo[1,2-a]pyridin-3-yl)acetamide | 5.0 g, 58.2% | N=1C=C(N2C1C=CC=C2)CC(=O)N | C9H9N3O
